US07635715B2
Step B: Preparation of 2-(2-chloro-6-iodophenyl)acetonitrile
A mixture of 2-(bromomethyl)-1-chloro-3-iodobenzene (14 g, 42 mmol) in 100 mL EtOH was treated with a solution of potassium cyanide (3.6 mL, 84 mmol) in 40 mL water. The mixture was refluxed for 2.5 hours. The mixture was cooled to room temperature and then concentrated. The residue was diluted with 200 mL EtOAc, washed with water (2×50 mL), saturated NaCl (50 mL), dried over sodium sulfate and concentrated. The crude product was purified by column chromatography (20% EtOAc/hexane) to give 10.18 g pale yellow solid. MS m/e: (M−1)− 276.

reactant | 2-(bromomethyl)-1-chloro-3-iodobenzene | 42 mmol, 14 g | BrCC1=C(C=CC=C1I)Cl | C7H5BrClI
reactant | potassium cyanide | 84 mmol, 3.6 mL | [C-]#N.[K+]
solvent | EtOH | 100 mL | CCO | C2H6O
solvent | water | 40 mL | O | H2O
product | 2-(2-chloro-6-iodophenyl)acetonitrile | 10.18 g | ClC1=C(C(=CC=C1)I)CC#N | C8H5ClIN
